US04435422
(±) 5-(3'-Aminomethyl-4-hydroxybenzoyl)-6,7-dichloro-2,3-dihydrobenzofuran-2-carboxylic acid hydrochloride
A sample of crude ethyl 5-(3-aminomethyl-4-hydroxybenzoyl)-6,7-dichloro-2,3-dihydrobenzofuran-2-carboxylate (600 mg.) was dissolved in 10 ml. of ethanol and treated with 4% aqueous HCl (125 ml.) for five hours at reflux.

reactant | ethyl 5-(3-aminomethyl-4-hydroxybenzoyl)-6,7-dichloro-2,3-dihydrobenzofuran-2-carboxylate | 600 mg | NCC=1C=C(C(=O)C=2C(=C(C3=C(CC(O3)C(=O)OCC)C2)Cl)Cl)C=CC1O | C19H17Cl2NO5
reactant | HCl | 125 ml | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | (±) 5-(3'-Aminomethyl-4-hydroxybenzoyl)-6,7-dichloro-2,3-dihydrobenzofuran-2-carboxylic acid hydrochloride | Cl.NCC=1C=C(C(=O)C=2C(=C(C3=C(CC(O3)C(=O)O)C2)Cl)Cl)C=CC1O | InChI=1S/C17H13Cl2NO5.ClH/c18-13-10(15(22)7-1-2-11(21)9(3-7)6-20)4-8-5-12(17(23)24)25-16(8)14(13)19;/h1-4,12,21H,5-6,20H2,(H,23,24);1H
